US04954498
8,8-Dimethyl-2-(4-chloro-2-methoxyphenyl)-5,6,7,8-tetrahydro-lH-imidazo[4,5-g]quinolin-6-one
In a manner analogous to that described in Example 2, from 4-chloro-2-methoxybenzoyl chloride and 4,4-dimethyl-6,7-diamino-1,2,3,4-tetrahydroquinolin-2one (see Example 13 a)), after column chromatography, there was obtained a yield of 58% of theory of the title compound; m.p. 300 -303° C.

reactant | 4-chloro-2-methoxybenzoyl chloride | ClC1=CC(=C(C(=O)Cl)C=C1)OC | C8H6Cl2O2
reactant | 4,4-dimethyl-6,7-diamino-1,2,3,4-tetrahydroquinolin-2one | CC1(CC(NC2=CC(=C(C=C12)N)N)=O)C | C11H15N3O
product | 8,8-Dimethyl-2-(4-chloro-2-methoxyphenyl)-5,6,7,8-tetrahydro-lH-imidazo[4,5-g]quinolin-6-one | yield of 58% | CC1(CC(NC=2C=C3C(=CC12)NC(=N3)C3=C(C=C(C=C3)Cl)OC)=O)C | C19H18ClN3O2
